US08664233B2
Synthesis of 2-(4-ethoxy-9-methoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indol-7-yl)benzene amine
70 mg (0.17 mmol) 7-bromo-4-ethoxy-9-methoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole, 56 mg (0.26 mmol) 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline, 119 mg (0.51 mmol) K3PO4×H2O, 2.8 mg (6.8 μmol) S-Phos and 0.8 mg (3.4 μmol) Pd(OAc)2 in 6 ml dioxan were heated in a microwave oven to 120° C. for 1 h. Then, the solvent was removed and after LC (CH2Cl2:MeOH, 0-20%) 20 mg (24%) of the title substance was obtained. ESI-MS [m/z]: 419 [M+H]+

reactant | 7-bromo-4-ethoxy-9-methoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole | 0.17 mmol, 70 mg | BrC=1C=C(C=2C3=C(NC2C1)C(=NC(=N3)N3CCNCC3)OCC)OC | C17H20BrN5O2
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.26 mmol, 56 mg | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | K3PO4 | 0.51 mmol, 119 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 6.8 μmol, 2.8 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | dioxan | 6 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 3.4 μmol, 0.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | H2O | O | H2O
product | 2-(4-ethoxy-9-methoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indol-7-yl)benzene amine | C(C)OC1=NC(=NC2=C1NC=1C=C(C=C(C21)OC)C2=C(C=CC=C2)N)N2CCNCC2 | C23H26N6O2
